US08431695B2
Step 2: Preparation of 8-Benzyl-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one
To a stirred mixture of 1-(4-Benzyl-2-hydroxymethyl-piperazin-1-yl)-2-chloro-ethanone (425 mg, 1.50 mmol) in anhydrous THF (10 mL) under N2 was added 60% sodium hydride (240.5 mg, 6.0 mmol, 4.0 eq). The mixture was stirred at rtT for 6 h and quenched with aqueous, saturated NH4Cl solution. The mixture was poured into EtOAc, and the organic layer was washed with 50% aqueous brine (3×), dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by MPLC (Biotage®, gradient elution 75 to 100% EtOAc/hexane) to give the product (265 mg, 72%) as clear oil. 1H-NMR (300 MHz, DMSO-d6) 7.34 to 7.24 (m, 5H), 4.34 to 4.29 (m, 1H), 3.99 (s, 2H), 2.92 (dd, 1H), 3.57 to 3.52 (m, 1H), 3.49 (d, 2H), 3.47 to 3.42 (dd, 1H), 2.82 to 2.74 (m, 2H), 2.69 (dt, 1H), 1.89 (dt, 1H), 1.77 (t, 1H); ES-MS m/z 247.2 [M+H]+, RT (min) 1.07.

reactant | 1-(4-Benzyl-2-hydroxymethyl-piperazin-1-yl)-2-chloro-ethanone | 1.50 mmol, 425 mg | C(C1=CC=CC=C1)N1CC(N(CC1)C(CCl)=O)CO | C14H19ClN2O2
reactant | sodium hydride | 6.0 mmol, 240.5 mg, 4.0 eq | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 8-Benzyl-hexahydro-pyrazino[2,1-c][1,4]oxazin-4-one | 265 mg, 72% | C(C1=CC=CC=C1)N1CC2COCC(N2CC1)=O | C14H18N2O2
